US08710223B2
In a 250 mL round bottom flask to a solution of 2-bromo 5-nitroaniline (2.30 g, 10.60 mmol) in toluene (90 mL) tricyclohexylphosphine (0.89 g, 3.18 mmol), Cs2CO3 (17.22 g, 52.99 mmol), cyclopropylboronic acid MIDA ester (2.92 g, 14.84 mmol) and 10 ml de-ionized water were added and the solution was degassed with nitrogen for 30 minutes. To the above solution Pd(OAc)2 (0.36 g, 1.59 mmol) was added under nitrogen and the reaction mixture was refluxed for 12 hours. LC MS analysis of the crude reaction indicated the completion of the reaction. The crude reaction mixture was filtered on Celite pad and the volatiles were removed under reduced pressure. The dark brown oil was worked-up with 2×100 mL ethyl acetate and water (100 mL), dried on MgSO4 and ethyl acetate was evaporated under reduced pressure. The crude reaction mixture was separated by column chromatography to give 2-cyclopropyl-5-nitrobenzeneamine in 70% yield.

reactant | 2-bromo 5-nitroaniline | 10.60 mmol, 2.30 g | BrC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | toluene | 3.18 mmol, 90 mL, 0.89 g | C1(=CC=CC=C1)C | C7H8
reactant | Cs2CO3 | 52.99 mmol, 17.22 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | cyclopropylboronic acid MIDA ester | 14.84 mmol, 2.92 g | B1(OC(=O)CN(CC(=O)O1)C)C2CC2 | C8H12BNO4
catalyst | Pd(OAc)2 | 1.59 mmol, 0.36 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 10 ml | O | H2O
product | 2-cyclopropyl-5-nitrobenzeneamine | 70% yield | C1(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])N | C9H10N2O2
